US03998835
22 g of (S)-1-tert.butylamino-2,3-dihydroxypropane, 20.7 g of benzaldehyde and 46 cc of benzene are heated at reflux in a water separator for 16 hours. The benzene and benzaldehyde are removed by distillation and the residue is distilled in a high vacuum. (S)-3-tert. butyl-5-hydroxy-methyl-2-phenyloxazolidine is obtained as yellowish oil (B.P. 110°-125° at 0.01 mm of Hg); [α]20546 = 17.8° (c = 1.99; chloroform).

reactant | (S)-1-tert.butylamino-2,3-dihydroxypropane | 22 g | C(C)(C)(C)NC[C@@H](CO)O | C7H17NO2
reactant | benzaldehyde | 20.7 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | benzene | 46 cc | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | (S)-3-tert. butyl-5-hydroxy-methyl-2-phenyloxazolidine | C(C)(C)(C)N1[C@@](OC(C1)O)(C1=CC=CC=C1)C | C14H21NO2
